US08217032B2
[4-(2-Azepan-1-yl-ethoxy)-phenyl]-[6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone
Dissolve trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxy-naphthalen-2-yl ester (990 mg, 1.8 mmol), 2,4,6-trifluorophenylboronic acid (634 mg, 3.6 mmol), potassium phosphate (2.2 g, 10.8 mmol), tetrakis(triphenylphosphine)palladium (416 mg, 0.4 mmol) in dry DMF (25 mL) and heat at 100° C. for 3 hours. Purify reaction by SCX column and by silica gel chromatography using a 1-3% gradient of methanol in dichloromethane to yield 320 mg (35%) of the title compound: mass spectrum (ion spray) m/z=534 (M+H).

reactant | trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxy-naphthalen-2-yl ester | 1.8 mmol, 990 mg | N1(CCCCCC1)CCOC1=CC=C(C(=O)C2=C(C=CC3=CC(=CC=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H28F3NO6S
reactant | 2,4,6-trifluorophenylboronic acid | 3.6 mmol, 634 mg | FC1=C(C(=CC(=C1)F)F)B(O)O | C6H4BF3O2
reactant | potassium phosphate | 10.8 mmol, 2.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | methanol | CO | CH4O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 mmol, 416 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(2-Azepan-1-yl-ethoxy)-phenyl]-[6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-methanone | 320 mg, 35% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)C1=C(C=C(C=C1F)F)F | C32H30F3NO3
